* /Users/liambranch/Desktop/Monte-Python/PHAReduced.asc
R1 N005 input 51
C2 outp N005 220pF
V1 N001 0 2.5
V2 0 N004 2.5
R2 outp N005 10.2k
XU1 outp N004 N006 N005 N001 LTC6247
V4 N002 0 3.3
R14 N006 0 10.2k
XU5 N003 input N001 N004 N002 0 compOut LT1715
V5 N003 0 -0.013
R16 input 0 100k
I1 input 0 PWL file=/Users/liambranch/Desktop/Monte-Python/monte_carlo_input5ch1_05_10_2023.txt
C1 input 0 120p
.tran 0 4.5u 0 0.001u
.save V(compOut)
.lib LTC1.lib
.lib LTC7.lib
.backanno
.end